US06063782
7-(4-Fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound was prepared as pale yellow crystals in 29.8% yield in a similar procedure to that described in Referential Example 79 by using 7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine and 4-fluorobenzyl alcohol.

reactant | 7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1NC(=C2C)C | C8H8ClN3
reactant | 4-fluorobenzyl alcohol | FC1=CC=C(CO)C=C1 | C7H7FO
product | 7-(4-Fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 29.8% yield | FC1=CC=C(COC=2N=NC=C3C2NC(=C3C)C)C=C1 | C15H14FN3O
